US05502177
B.3. 5-Bromo-3',5'-diacetyl-N4 -(2-hydroxy-3,5-dimethylphenyl)-2'-deoxycytidine
To a solution of 3',5'-diacetyl-5-bromo-2'-deoxyuridine (4.0 g; 10 mmol), methylene chloride (50 ml), triethylamine (4.0 g; 40 mmol) and DMAP (0.1 g) was added 2-mesitylsulfonyl chloride (4.4 g; 20 mmol). After stirring at room temperature for 6 h. DBU (3.0 g; 20 mmol) and 3-amino-2-naphthol (6.4 g; 40 mmol) were added and the solution was stirred for 4 h. at room temperature. The reaction mixture was concentrated, the residue was dissolved in ethyl acetate and washed with saturated sodium bicarbonate aq. solution, but the title compound was precipitated from solution. The precipitates were filtered off and washed thoroughly with ethyl acetate, then methylene chloride, and dried. A small quantity of title compound also was obtained from the filtrate.

reactant | 3',5'-diacetyl-5-bromo-2'-deoxyuridine | 10 mmol, 4.0 g | C(C)(=O)[C@@]1(C[C@@H](O[C@@H]1C(O)C(C)=O)N1C(=O)NC(=O)C(=C1)Br)O | C13H15BrN2O7
reactant | triethylamine | 40 mmol, 4.0 g | C(C)N(CC)CC | C6H15N
reactant | 2-mesitylsulfonyl chloride | 20 mmol, 4.4 g | C1(=C(C(=CC(=C1)C)C)S(=O)(=O)Cl)C | C9H11ClO2S
reactant | DBU | 20 mmol, 3.0 g | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | 3-amino-2-naphthol | 40 mmol, 6.4 g | NC=1C(=CC2=CC=CC=C2C1)O | C10H9NO
catalyst | DMAP | 0.1 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 5-Bromo-3',5'-diacetyl-N4 -(2-hydroxy-3,5-dimethylphenyl)-2'-deoxycytidine | BrC=1C(=NC(N([C@H]2C[C@](O)([C@@H](C(O)C(C)=O)O2)C(C)=O)C1)=O)NC1=C(C(=CC(=C1)C)C)O | C21H24BrN3O7
